.title KiCad schematic
.ac dec 200 10 1000
C2 /p2 GND 112.492p
Vs3 /p2 Net-_R3-Pad1_ DC 0 
R1 Net-_R1-Pad1_ Net-_L1-Pad1_ 25000
L1 Net-_L1-Pad1_ /p2 2347.54
Vs1 /p_in Net-_R1-Pad1_ DC 0 
R3 Net-_R3-Pad1_ Net-_L3-Pad1_ 25000
L3 Net-_L3-Pad1_ /p4 7512.11
V1 /p_in GND DC 0 AC 1  
C4 /p4 GND 719.948p
L7 Net-_L7-Pad1_ GND 3756.06
Vs7 /p6 Net-_R7-Pad1_ DC 0 
C6 /p6 GND 303.728p
R7 Net-_R7-Pad1_ Net-_L7-Pad1_ 25000
Vs5 /p4 Net-_R5-Pad1_ DC 0 
R5 Net-_R5-Pad1_ Net-_L5-Pad1_ 25000
L5 Net-_L5-Pad1_ /p6 9390.14
.end
